US04533753
Preparation of 3,5-Dimethyl-2,4,6-tris(methylthio)phenol
NMR shows fraction 2 to be a mixture of about 90:10 of 3,5-dimethyl-2,6-bis(methylthio)phenol and 2,4-bis(methylthio)phenol.

reactant | 3,5-dimethyl-2,6-bis(methylthio)phenol | CC=1C(=C(C(=C(C1)C)SC)O)SC | C10H14OS2
reactant | 2,4-bis(methylthio)phenol | CSC1=C(C=CC(=C1)SC)O | C8H10OS2
product | 3,5-Dimethyl-2,4,6-tris(methylthio)phenol | CC=1C(=C(C(=C(C1SC)C)SC)O)SC | C11H16OS3
